US03974212
A stirred solution of (1-oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid (5.1 g., 0.015 mole) and hydroxyamine hydrochloride (3.2 g., 0.045 mole) in pyridine (60 ml.) is heated at 95°C. on a steam bath for 40 hours then poured into aqueous hydrochloric acid affording (1-hydroxyimino-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 230°C. after recrystallization from ethanol-water.

reactant | (1-oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.015 mole, 5.1 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1CCCC1 | C17H18Cl2O4
reactant | hydroxyamine hydrochloride | 0.045 mole, 3.2 g | Cl.ON
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | (1-hydroxyimino-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid | ON=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1CCCC1 | C17H19Cl2NO4
